US04394515
8-Aminodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide Hydrochloride
415 Mg. 8-amino-3-cyanodibenzo[b,f]thiepin-5,5-dioxide is suspended in a mixture of 15 cc. concentrated hydrochloric acid and 15 cc. acetic acid and refluxed for 24 hours. The reaction mixture is evaporated to dryness and the residue collected and dried at 100° C. at 0.5 mm./Hg. to yield 454 mg. pure product, m.p. 280° C.

reactant | 8-amino-3-cyanodibenzo[b,f]thiepin-5,5-dioxide | NC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C#N)C1 | C15H10N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Aminodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide Hydrochloride | Cl.NC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | InChI=1S/C15H11NO4S.ClH/c16-12-5-6-13-10(7-12)3-1-9-2-4-11(15(17)18)8-14(9)21(13,19)20;/h1-8H,16H2,(H,17,18);1H
